US08022062B2
4-(3,3-Dimethyl-butyryl)-3-fluoro-benzylamine:
Add 4N hydrogen chloride in dioxane (2.7 mL, 10.8 mmol) to a solution of N-(tert-butoxycarbonyl)-4-(3,3-dimethyl-butyryl)-3-fluoro-benzylamine (296 mg, 0.92 mmol) in dichloromethane (11 mL) and stir for 4 h. Concentrate in vacuo and wash the solid obtained with diethyl ether. Suspend the solid in saturated aqueous NaHCO3 and stir for 30 min. Extract twice with dichloromethane. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo to obtain the title compound as an oil (175 mg, 82%).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | dioxane | 10.8 mmol, 2.7 mL | O1CCOCC1 | C4H8O2
reactant | N-(tert-butoxycarbonyl)-4-(3,3-dimethyl-butyryl)-3-fluoro-benzylamine | 0.92 mmol, 296 mg | C(C)(C)(C)OC(=O)NCC1=CC(=C(C=C1)C(CC(C)(C)C)=O)F | C18H26FNO3
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-(3,3-Dimethyl-butyryl)-3-fluoro-benzylamine | 175 mg, 82% | CC(CC(=O)C1=C(C=C(CN)C=C1)F)(C)C | C13H18FNO
